US05136034
Preparation of 6-oxo-2-phenyl-1,3-dithiane
To a solution of benzaldehyde (1.06 g, 10 mm) and 3-mercaptothiopropionic acid (1.22 g, 10 mm) in dichloromethane (25 cc) was added dry zinc iodide (1 mm, 320 mg) and the mixture was refluxed for 3.5 hrs. It was cooled to room temperature, diluted with dichloromethane and successively washed with IN HCl, brine and dried with sodium sulphate. Removal of the solvent yielded the essentially pure title compound.

reactant | benzaldehyde | 1.06 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 3-mercaptothiopropionic acid | 1.22 g | SCCC(=S)O | C3H6OS2
solvent | dichloromethane | 25 cc | ClCCl | CH2Cl2
catalyst | zinc iodide | 320 mg | [I-].[Zn+2].[I-]
product | 6-oxo-2-phenyl-1,3-dithiane | O=C1CCSC(S1)C1=CC=CC=C1 | C10H10OS2
